US03991046
To an ice-cold stirred suspension of 2-dichloroacetoxyimino-2-(fur-2-yl)acetic acid (1.5 g) in dry methylene chloride (70 mls) was added dropwise a freshly prepared solution of phosphorus pentachloride (1.0 equiv.) in methylene chloride. When solution was complete the solvent was evaporated at low temperature and the residual oil azeotroped with benzene to give 2-dichloroacetoxyimino-2(fur-2-yl)acetyl chloride (syn-isomer) as a pale yellow oil which was used directly.

reactant | 2-dichloroacetoxyimino-2-(fur-2-yl)acetic acid | 1.5 g | ClC(C(=O)ON=C(C(=O)O)C=1OC=CC1)Cl | C8H5Cl2NO5
reactant | phosphorus pentachloride | 1.0 equiv. | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 70 mls | C(Cl)Cl | CH2Cl2
product | 2-dichloroacetoxyimino-2(fur-2-yl)acetyl chloride | ClC(C(=O)ON=C(C(=O)Cl)C=1OC=CC1)Cl | C8H4Cl3NO4
